US07629494B2
2-Hydroxy-3-methylbenzaldehyde (48.78 g, purity: 40.7%, 0.146 mol) was dissolved in toluene (100 ml), and the mixture was added to a reactor under a nitrogen atmosphere. After the mixture was cooled to 0° C. in ice-water, a solution of vinyl magnesium chloride in THF-toluene (1.77M, 182 ml, 0.32 mol, THF:toluene=1:1 (v:v)) was added thereto over 15 minutes such that the temperature of the mixture did not exceed 25° C. After the mixture was stirred at 15-20° C. for 2 hours, it was cooled to 0° C. A 20% aqueous ammonium chloride solution (250 ml) was added thereto. After the mixture was stirred at 25° C. for 1 hour, the solution was separated. The organic layer was concentrated to obtain 32.36 g (purity: 73.5%, 0.145 mol) of 2-(1-hydroxy-2-propenyl)-6-methylphenol as an orange-colored oil.

reactant | 2-Hydroxy-3-methylbenzaldehyde | 0.146 mol, 48.78 g | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
reactant | THF toluene | 0.32 mol, 1.77M, 182 ml | C1CCOC1.C1(=CC=CC=C1)C
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-hydroxy-2-propenyl)-6-methylphenol | 0.145 mol, 32.36 g | OC(C=C)C1=C(C(=CC=C1)C)O | C10H12O2
